US04149848
2nd Stage: Preparation of 2-methyl-4-amino-N-tetrahydrofurfurylaniline dihydrochloride monohydrate
5 g of ammonium chloride and 83 g of zinc powder are added to 250 ml of an aqueous-alcoholic solution (85% of alcohol and 15% of water). This mixture is heated to the reflux temperature, whilst stirring, and 0.168 mol (39.8 g) of 2-methyl-4-nitro-N-tetrahydrofurfurylaniline is then added gradually. When the addition of the nitro derivative has ended and the reaction medium is completely decolorised, the latter is filtered and the filtrate is collected in 40 ml of ice-cooled hydrochloric acid (d=1.19). 80 ml of acetone are added to the filtrate. 2-Methyl-4-amino-N-tetrahydrofurfurylaniline dihydrochloride precipitates in the form of the monohydrate. The crystalline product is filtered off and washed with absolute alcohol and then acetone. After drying in vacuo, it melts at about 210° C. with decomposition.

reactant | ammonium chloride | 5 g | [Cl-].[NH4+]
reactant | 2-methyl-4-nitro-N-tetrahydrofurfurylaniline | 0.168 mol, 39.8 g | CC1=C(NCC2CCCO2)C=CC(=C1)[N+](=O)[O-] | C12H16N2O3
catalyst | zinc | 83 g | [Zn] | Zn
product | 2-methyl-4-amino-N-tetrahydrofurfurylaniline dihydrochloride monohydrate | O.Cl.Cl.CC1=C(NCC2CCCO2)C=CC(=C1)N | InChI=1S/C12H18N2O.2ClH.H2O/c1-9-7-10(13)4-5-12(9)14-8-11-3-2-6-15-11;;;/h4-5,7,11,14H,2-3,6,8,13H2,1H3;2*1H;1H2
